US06358980B1
4-(4-But-2-ynyloxy-benzenesulfonyl)-1-(4-methoxy-benzyl)-piperdine-4-carboxylic acid was prepared starting from 4-(4-but-2-ynyloxy-benzenesulfonyl)-1-(4-methoxy-benzyl)-piperdine-4-carboxylic acid ethyl ester (2.5 g, 5.15 mmol) dissolved in THF:methanol (3:1, 200 ml) and 10 N NaOH (15 ml). The resulting reaction mixture was worked up as outlined in Example 1 (Step 7). Yield 1.26 g (54%); off white solid; mp 223° C.; MS: 458 (M+H)+

reactant | 4-(4-but-2-ynyloxy-benzenesulfonyl)-1-(4-methoxy-benzyl)-piperdine-4-carboxylic acid ethyl ester | 5.15 mmol, 2.5 g | C(C)OC(=O)C1(CCN(CC1)CC1=CC=C(C=C1)OC)S(=O)(=O)C1=CC=C(C=C1)OCC#CC | C26H31NO6S
solvent | THF methanol | 200 ml | C1CCOC1.CO
solvent | NaOH | 10 N, 15 ml | [OH-].[Na+]
product | 4-(4-But-2-ynyloxy-benzenesulfonyl)-1-(4-methoxy-benzyl)-piperdine-4-carboxylic acid | C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)C1(CCN(CC1)CC1=CC=C(C=C1)OC)C(=O)O | C24H27NO6S
